US04833268
The whole brains of mice of ddY-strain were homogenized and the resulting brain homogenate was diluted with the same volume of a buffere solution (comprising 50 mM Tris-HCl (pH 8.6, 1.5 mM EDTA.2Na); 0.5 mM Pridoxal-5-Phosphate; 1 mM Nialamide; and 0.85 mM L-ascorbic acid), and the mixture was centrifuged at 10,000 g to give a supernatant liquid containing the brain enzymes. To this supernatant liquid (500 μl) was added a solution containing 4.5 mM of a substrate selected from L-threo-adrenalinecarboxylic acid, L-threo-DOPS and L-DOPA. The mixture obtained (pH ca. 8, 1.0 ml) was incubated for 30 minutes at 37° C., followed by quantitative determination of adrenaline, noradrenaline or dopamine formed as the reaction product catecholamine.

reactant | Tris-HCl | 50 mM, pH 8.6 | C(C(CO)(CO)N)O.Cl
reactant | Pridoxal-5-Phosphate | 0.5 mM | CC1=NC=C(C(=C1O)C=O)COP(=O)(O)O | C8H10NO6P
reactant | Nialamide | 1 mM | C=1C=CC(=CC1)CNC(=O)CCNNC(=O)C=2C=CN=CC2 | C16H18N4O2
reactant | L-ascorbic acid | 0.85 mM | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | L-threo-DOPS | C1=CC(=C(C=C1[C@H]([C@@H](C(=O)O)N)O)O)O | C9H11NO5
reactant | L-DOPA | O=C(O)[C@@H](N)CC1=CC=C(O)C(O)=C1 | C9H11NO4
reactant | adrenaline | CNCC(O)C1=CC(O)=C(O)C=C1 | C9H13NO3
reactant | noradrenaline | C1=CC(=C(C=C1[C@H](CN)O)O)O.C(C(C(=O)O)O)(C(=O)O)O
reactant | dopamine | NCCC1=CC(O)=C(O)C=C1 | C8H11NO2
product | catecholamine | C1(O)=C(O)C(=CC=C1)N | C6H7NO2
